US07709490B2
8-(4,5-Diphenylpyrimidin-2-yl)octanoic Acid
83 mg (0.18 mmol) of benzyl (8-(4,5-diphenylpyrimidin-2-yl)oct-2-enoate were dissolved in 15 ml of ethanol, and 50 mg of Pd/C (10%) were added. Hydrogenation was carried out under a hydrogen pressure of 2 bar for 6.5 hours. Removal of the catalyst by filtration was followed by concentration and purification of the residue by preparative HPLC (method A). 23 mg (34%) of the desired product were obtained.

reactant | 8-(4,5-diphenylpyrimidin-2-yl)oct-2-enoate | C1(=CC=CC=C1)C1=NC(=NC=C1C1=CC=CC=C1)CCCCCC=CC(=O)[O-]
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 8-(4,5-Diphenylpyrimidin-2-yl)octanoic Acid | 23 mg, 34% | C1(=CC=CC=C1)C1=NC(=NC=C1C1=CC=CC=C1)CCCCCCCC(=O)O | C24H26N2O2
